US06211234B1
To a solution of 2.5 M n-butyl lithium (3.64 mL) in dry tetrahydrofuran (THF) (20 mL) that is cooled to −70° C. under nitrogen is added a solution of diethyl phosphonoacetic acid (0.89 g) in THF (5 mL). After 30 minutes a solution of 2,4-dibenzyloxybenzaldehyde (1.46 g) in THF (5 mL) is slowly added to the cooled solution so as to maintain the temperature. The resulting mixture is stirred at −70° C. for 3 hours and then at 25° C. for 18 hours. The resulting suspension is treated with water, the THF is removed in vacuo,the residue is extracted with ethyl acetate, the extract is dried and evaporated. The residual solid is recrystallized from isopropanol to yield (E)-3-(2,4-dibenzyloxyphenyl)prop-2-enoic acid as colourless crystals (0.6 g), m.p. 153-155° C. H NMR (DMSO) 5.15 (2H,s), 5.21(2H,s), 6.4(1H,d,J=16 Hz), 6.7(1H,d), 6.85(1H,s), 7.3-7.5(10H,m), 7.6(1H,d), 7.8(1H,d,J=16 Hz).

reactant | n-butyl lithium | 2.5 M, 3.64 mL | C(CCC)[Li]
reactant | diethyl phosphonoacetic acid | 0.89 g | C(C)C(C(=O)O)(P(=O)(O)O)CC | C6H13O5P
reactant | 2,4-dibenzyloxybenzaldehyde | 1.46 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)OCC1=CC=CC=C1 | C21H18O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | THF | 5 mL | O1CCCC1 | C4H8O
solvent | THF | 5 mL | O1CCCC1 | C4H8O
product | (E)-3-(2,4-dibenzyloxyphenyl)prop-2-enoic acid | 0.6 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)/C=C/C(=O)O | C23H20O4
